US05112988
A solution (11.45 g) of benzyltrimethylammonium hydroxide in methanol is added to a solution of 4,4-diphenyl-2-cyclohexenone (60 g) and nitromethane (14.75 g) in 2-methyl-2-propanol (400 cc) and anhydrous tetrahydrofuran (200 cc), and the reaction mixture is stirred at +25° C. for 144 hours: a crystalline solid precipitates slowly. This suspension is filtered and the crystals are washed with petroleum ether (50 cc) cooled to 0° C., drained and dried. (RS)-3-Nitromethyl-4,4-diphenylcyclohexanone (69.1 g) is obtained in the form of white crystals, m.p. 164° C.

reactant | benzyltrimethylammonium hydroxide | 11.45 g | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 4,4-diphenyl-2-cyclohexenone | 60 g | C1(=CC=CC=C1)C1(C=CC(CC1)=O)C1=CC=CC=C1 | C18H16O
reactant | nitromethane | 14.75 g | [N+](=O)([O-])C | CH3NO2
solvent | methanol | CO | CH4O
solvent | 2-methyl-2-propanol | 400 cc | CC(C)(C)O | C4H10O
solvent | tetrahydrofuran | 200 cc | O1CCCC1 | C4H8O
product | (RS)-3-Nitromethyl-4,4-diphenylcyclohexanone | 69.1 g | [N+](=O)([O-])CC1CC(CCC1(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H19NO3
